US08076325B2
Step 1: [{[(7S)-3, 4-Dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}(methyl)amino]acetonitrile.
At ambient temperature, 1.04 g (5 mmol) of {[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}methylamine, 0.35 mL (5 mmol/1 eq.) of bromoacetonitrile and 2.16 g (20 mmol/4 eq.) of sodium carbonate are mixed into 16 mL of methyl isobutyl ketone. Refluxing is carried out overnight, followed by drying. The residue is taken up in water and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried over magnesium sulphate to yield, after concentration, the expected product.

reactant | {[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}methylamine | 5 mmol, 1.04 g | COC=1C=C2C[C@@H](C2=CC1OC)CNC | C12H17NO2
reactant | bromoacetonitrile | 5 mmol, 0.35 mL, 1 eq. | BrCC#N | C2H2BrN
reactant | sodium carbonate | 20 mmol, 2.16 g, 4 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl isobutyl ketone | 16 mL | C(C(C)C)C(=O)C | C6H12O
product | [{[(7S)-3, 4-Dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}(methyl)amino]acetonitrile | COC=1C=C2C[C@@H](C2=CC1OC)CN(C)CC#N | C14H18N2O2
